US07858800B2
1) Production of 4-[1-phenyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine
tert-Butyl 4-[1-phenyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate (50 mg) was dissolved in 1 ml of formic acid followed by stirring at room temperature for 4 hours. After formic acid was evaporated in vacuo, the residue was dissolved in chloroform and washed with a saturate aqueous solution of sodium bicarbonate and then with a saturated saline solution. After the organic layer was dried over sodium sulfate, the solvent was evaporated in vacuo to give 35 mg of crude product of the title compound as an oily substance.

reactant | tert-Butyl 4-[1-phenyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate | 50 mg | C1(=CC=CC=C1)N1N=NC(=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C18H22N4O2
solvent | formic acid | 1 ml | C(=O)O | CH2O2
product | 4-[1-phenyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine | 35 mg | C1(=CC=CC=C1)N1N=NC(=C1)C=1CCNCC1 | C13H14N4
